Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain, dysuria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with PMH alcohol use 
disorder, IV drug use, presenting with 2 days of dysuria and 1 
month of intermittent epigastric pain. She was in her usual 
state of health until about a month ago when she started having 
occasional midline epigastric pain upon waking up that would 
improve when she had a few nips. ___ days ago she began having 
pruritus of her feet and then eventually including most of her 
body. Her friends noted that her eyes appeared yellow. For the
last 2 days she has had dysuria and frequency, and noticed "red 
wisps" in her urine. She denies fevers, HA's, unintended weight 
loss, CP, vomiting, diarrhea, constipation, frank hematuria 
(though notes "red wisps"), vaginal discharge BRBPR. She has had 
a mild nonproductive cough and mild nausea. Denies recent 
tylenol use or recent travel.

Regarding her substance use, she has drank ___ nips per day for 
the last ___ years. Her last drink was yesterday morning. She 
denies prior withdrawal or seizures. She has used IV fentanyl 
one time two weeks ago with someone who has Hep C. She has no 
known liver disease history. She has smoked 1ppd for last ___ 
years.
 
Past Medical History:
None
 
Social History:
___
Family History:
Mother with prothrombin ___ mutation. Pt has never been tested

 
Physical Exam:
ADMISSION
VS: ___ 1558 Temp: 98.1 PO BP: 121/83 L Sitting HR: 67 RR:
17 O2 sat: 96% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score:
___ 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Scleral icterus present without injection.
MMM.
NECK: No cervical lymphadenopathy. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: soft, non distended, tender to palpation at midline
epigastric.  No organomegaly. ___ sign negative
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation. No
asterixis

DISCHARGE
VS: 24 HR Data (last updated ___ @ 435)
    Temp: 98.4 (Tm 98.8), BP: 100/67 (100-127/67-86), HR: 82
(82-106), RR: 18 (___), O2 sat: 97%, O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: EOMI. Scleral icterus mildly present without injection. 
CARDIAC: Regular rhythm, normal rate. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: soft, non distended, non tender to palpation. No
guarding or rebound.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation. No
asterixis.
 

 
Pertinent Results:
ADMISSION

___ 03:00PM URINE  RBC-17* WBC->182* BACTERIA-FEW* 
YEAST-NONE EPI-1
___ 03:00PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-LG* UROBILNGN-8* PH-6.5 
LEUK-LG*
___ 03:00PM URINE  UCG-NEGATIVE
___ 03:10PM   WBC-9.2 RBC-4.09 HGB-13.7 HCT-40.8 MCV-100* 
MCH-33.5* MCHC-33.6 RDW-15.9* RDWSD-58.1*
___ 03:10PM   ALBUMIN-4.1
___ 03:10PM   LIPASE-35
___ 03:10PM   ALT(SGPT)-1120* AST(SGOT)-1263* ALK PHOS-332* 
TOT BILI-7.1*
___ 03:10PM   GLUCOSE-106* UREA N-9 CREAT-1.0 SODIUM-143 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-23 ANION GAP-18
___ 05:00PM   ACETMNPHN-NEG
___ 05:00PM   HBsAg-NEG HBc Ab-NEG HAV Ab-POS*
___ 06:00PM   ___ PTT-30.0 ___
___ 08:02AM BLOOD HCV Ab-POS*
___ 12:13PM   HIV Ab-NEG
___ 02:56PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:02AM BLOOD HBsAb-POS IgM HBc-NEG IgM HAV-NEG
___ 05:00PM BLOOD HBsAg-NEG HBcAb-NEG HAV Ab-POS*

DISCHARGE

___ 08:12AM BLOOD WBC-7.9 RBC-3.97 Hgb-13.6 Hct-39.1 
MCV-99* MCH-34.3* MCHC-34.8 RDW-16.0* RDWSD-58.1* Plt ___
___ 08:12AM BLOOD Neuts-60.6 ___ Monos-10.9 Eos-1.3 
Baso-0.8 Im ___ AbsNeut-4.76 AbsLymp-2.03 AbsMono-0.86* 
AbsEos-0.10 AbsBaso-0.06
___ 08:12AM BLOOD Glucose-82 UreaN-9 Creat-0.8 Na-136 K-4.4 
Cl-100 HCO3-22 AnGap-14
___ 08:12AM BLOOD ALT-1043* AST-1504* LD(LDH)-505* 
CK(CPK)-32 AlkPhos-285* TotBili-7.1*
___ 08:12AM BLOOD Albumin-3.6 Calcium-9.5 Phos-4.6* Mg-1.9
___ 08:02AM BLOOD HBV VL-PND HCV VL-PND

 
Brief Hospital Course:
Unfortunately on the day of discharge the patient decided to 
leave AGAINST MEDICAL ADVICE.  The patient understood that we 
did not feel she should be leaving the hospital.  She 
demonstrated capacity to make that decision, and indicated that 
she would return if she got sicker or did not improve.

#Acute hepatitis: Not acute liver failure, no synthetic 
dysfunction and no encephalopathy. Likely etiologies include 
alcohol use and hepatitis C. Workup so far notable for positive 
hep C with VL pending (known exposure, so could be acute hep C), 
positive Hep A with negative IgM. Toxic injection also possible, 
though tox screens unrevealing. Hemochromatosis also possible 
but lower on ddx given TSAT of 69% (above 45% cutoff) with 
ferritin of 706 (normal is below 200 for women), high Iron at 
191 but no obvious bronze skin, family history, and ferritin is 
an acute phase reactant. Patients hep C VL pending at time of 
discharge, if negative, plan was to pursue autoimmune workup 
and/or biopsy (antinuclear antibodies, anti-smooth muscle 
antibodies, anti-liver/kidney microsomal antibodies type 1). 
Patient was counseled on the risks of leaving while her LFTS 
were still uptrending, and about the life threatening nature of 
acute liver failure. Patient understood the risks, but remained 
adamant about discharge and outpatient follow up.

#Sterile pyuria: Positive UA with 2 days of dysuria and urinary 
frequency, cultures < 10,000 CFUs would be concerning for G/C 
infection. Patient was started on Cefpodoxime 100 mg PO BID for 
10 total doses (day ___ while G/C results were pending. At 
time of discharge they had not resulted, and decision was made 
to discharge off of antibiotics as patients urine culture was 
negative. 

#EtOH use: Received thiamine, folic acid. Required lorazepam for 
CIWA. Social work saw patient and gave information on resources 
to quit alcohol. 

#Opioid use (IV drug use) Used IV fentanyl one time 2 weeks ago. 
Injected into right arm, used her friend's needle. Denies any 
other IV drug use.

#Tobacco use disorder: patient cites desire to smoke as reason 
for leaving AMA.  

I spent >30min in discharge day counseling and coordination of 
care.  The patient was strongly counseled to arrange follow-up 
with her PCP and with her pathology, and to return to a hospital 
should she get sicker.

___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Prenatal Vitamins 1 TAB PO DAILY  
2.  Thiamine 100 mg PO DAILY ___  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute hepatitis
Sterile Pyuria  
Alcohol Use
Substance Use

 
Discharge Condition:
Mental Status: Clear and coherent. The risks of leaving AMA were 
discussed with patient, but she remained adamant about leaving 
with outpatient follow up. 
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ ,  

It was a pleasure caring for you at ___ 
___.  

WHY WERE YOU IN THE HOSPITAL?  
- You were admitted to the hospital for abdominal pain, nausea 
and pain with urination.

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL?  
- We found that your liver was very inflamed. We believe it is 
because of alcohol use and hepatitis C. 
- Your test results for hepatitis C were not back when you left 
the hospital. 
- Your urine did not show you have a UTI. However, we also sent 
a gonorrhea and chlamydia test. The results were still pending 
when you left.

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?  
- It is important that you follow up with both your primary care 
doctor and the liver doctors as ___ made the decision to leave 
the hospital while we were still monitoring your liver and 
waiting on test results to identify why your liver was injured. 
It is also important that you do not use alcohol while your 
liver is injured. We hope that the list of community resources 
our social worker provided you will be helpful. 

We wish you the best!  

Sincerely,  

Your ___ Team

 
Followup Instructions:
___